US04044134
Ethyl 7,8-Methylenedioxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylate
A mixture of 6,7-methylenedioxy-2-aminoquinoline-3-carboxamide (1.50 g., 6.5 millimoles), sodium methoxide (0.05 g., 1.25 millimoles) and diethyl oxalate (150 ml.) is heated to 150° C. for 3.5 hours. The mixture is then cooled to room temperature to precipitate the product which is recovered by filtration (1.0 g.). It is purified by chromatography on silica gel using chloroform:methanol (99:1) as eluant. The product is recovered by evaporation of the eluate and recrystallization of the residue from ethanol. Yield = 0.414 g. (20.4%) of the cyclized product. M.P. 267° C. (dec.).

reactant | 6,7-methylenedioxy-2-aminoquinoline-3-carboxamide | 6.5 millimoles, 1.50 g | C1OC=2C=C3C=C(C(=NC3=CC2O1)N)C(=O)N | C11H9N3O3
reactant | sodium methoxide | 1.25 millimoles, 0.05 g | C[O-].[Na+]
reactant | diethyl oxalate | 150 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl 7,8-Methylenedioxypyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylate | C1OC=2C=C3C=C4C(=NC3=CC2O1)N=C(NC4=O)C(=O)OCC | C15H11N3O5
